US08541573B2
Step 3: 1-Benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidine-4-carbonitrile
A solution containing 1-(pyridin-4-yl)piperazine (58.34 mmol, 1 equiv.), N-benzyl-piperidinone (1 equiv.), KCN (1.1 equiv.), AcOH (3.3 ml) and water (1.3 ml) in methanol was stirred at room temperature for 16 h. The reaction mixture was quenched with NH4OH solution (400 ml) and filtered. The solid precipitate was thoroughly washed with water, dried under vacuum and taken through to the next reaction without further purification. Yield: 47%.

reactant | 1-(pyridin-4-yl)piperazine | 58.34 mmol, 1 equiv. | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | N-benzyl-piperidinone | 1 equiv. | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | KCN | 1.1 equiv. | [C-]#N.[K+]
reactant | AcOH | 3.3 ml | CC(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | water | 1.3 ml | O | H2O
product | 1-Benzyl-4-(4-(pyridin-4-yl)piperazin-1-yl)piperidine-4-carbonitrile | Yield: 47% | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)N1CCN(CC1)C1=CC=NC=C1 | C22H27N5
